US05500417
2-Methylbenzylphosphonic acid, dimethyl ester
Following the procedure of Compound 11, 2-methylbenzyl bromide is reacted with trimethylphosphite.

reactant | 2-methylbenzyl bromide | CC1=C(CBr)C=CC=C1 | C8H9Br
reactant | trimethylphosphite | COP(OC)OC | C3H9O3P
product | 2-Methylbenzylphosphonic acid, dimethyl ester | CC1=C(CP(OC)(OC)=O)C=CC=C1 | C10H15O3P
